US04654335
A solution of 2-[(2,3-dichlorophenyl)methylene]-3-oxobutanoic acid, methyl ester (1.0 g., 3.66 mmole) in dry dimethylformamide (7 ml.) is treated with 2-aminothiophenol (512 mg., 4.1 mmoles) and the resulting reaction mixcture is stirred at room temperature for 3 hours. Acetic acid (0.1 ml.) is added and the reaction is heated at 75° (oil bath temperature) for 48 hours. It is then cooled to room temperature and diluted with ether. The resulting solution is washed with 1N sodium hydroxide, water, and brine. After drying over anhydrous magnesium sulfate, the solvent is stripped off to provide a yellow solid. It is crystallized from isopropyl ether-dichloromethane to yield 660 mg. of light yellow crystalline product. Recrystallization from isopropyl ether-dichloromethane yields an analytically pure sample of 2,5-dihydro-4-methyl-2-(2,3-dichlorophenyl)-1,5-benzothiazepine-3-carboxylic acid, methyl ester as colorless needles; m.p. 190°-191°. TLC (silica gel; ethyl acetate:hexanes, 40:60) Rf =0.40.

reactant | 2-[(2,3-dichlorophenyl)methylene]-3-oxobutanoic acid, methyl ester | 3.66 mmole, 1.0 g | ClC1=C(C=CC=C1Cl)C=C(C(=O)OC)C(C)=O | C12H10Cl2O3
reactant | 2-aminothiophenol | 4.1 mmoles, 512 mg | NC1=C(C=CC=C1)S | C6H7NS
reactant | Acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 2,5-dihydro-4-methyl-2-(2,3-dichlorophenyl)-1,5-benzothiazepine-3-carboxylic acid, methyl ester | CC1=C(C(SC2=C(N1)C=CC=C2)C2=C(C(=CC=C2)Cl)Cl)C(=O)OC | C18H15Cl2NO2S
